US04795750
5 g of 2-piperazinyl-4-amino-6,7-dimethoxy quinazoline were heated in 15 g of γ-butyrolactone to 100° C. until a sample on thin layer chromatography (as described in Examples 1 and 3) indicated the reaction was complete. The precipitate formed overnight with cooling was removed and recrystallized from ethanol. The 1-(4-amino-6,7-dimethoxy quinazolin-2-yl)-4-(4-hydroxy-butyryl)-piperazine obtained showed a crystal transformation at 135°-140° C. and melted at 241°-243° C.

reactant | 2-piperazinyl-4-amino-6,7-dimethoxy quinazoline | 5 g | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | γ-butyrolactone | 15 g | C1(CCCO1)=O | C4H6O2
product | 1-(4-amino-6,7-dimethoxy quinazolin-2-yl)-4-(4-hydroxy-butyryl)-piperazine | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(CCCO)=O | C18H25N5O4
